US07348318B2
Synthesis of (3S, P (SR))-3-amino-1-amino(3-phenylpropanoylamino)phosphinyl-2-piperidone
Palladium black (20.0 mg) was added to a solution of (3S, P (SR))-3-benzyloxycarbonylamino-1-amino(cinnamoylamino)phosphinyl-2-piperidone (201.0 mg, 0.4404 mmol) in ethanol (6 mL), and the resulting mixture was stirred at room temperature for 20 hours under a hydrogen atmosphere.

reactant | 3-benzyloxycarbonylamino-1-amino(cinnamoylamino)phosphinyl-2-piperidone | 0.4404 mmol, 201.0 mg | C(C1=CC=CC=C1)OC(=O)NC1(C(N(CCC1)N)=O)P(=O)NC(C=CC1=CC=CC=C1)=O | C22H25N4O5P
solvent | ethanol | 6 mL | C(C)O | C2H6O
catalyst | Palladium black | 20.0 mg | [Pd] | Pd
product | 3-amino-1-amino(3-phenylpropanoylamino)phosphinyl-2-piperidone | NC1(C(N(CCC1)N)=O)P(=O)NC(CCC1=CC=CC=C1)=O | C14H21N4O3P
